US08222413B2
The mother liquor of the reaction was recycled by the addition of NaOH pellets (34.9 g, 869 mmol, 1 equiv) to the mother liquor, followed by stirring until the NaOH was dissolved. 1-Methylpiperazine (96.5 mL, 869 mmol, 1 equiv) and 5-chloro-2-nitroaniline (150 g, 869 mmol) were charged to the vessel. Purging, followed by heating to completion, cooling, filtration, and washing with heptane was repeated as above to yield 5-(4-methyl-piperazin-1-yl)-2-nitroaniline (203.2 g, 98.9% yield). Residual N-methylpiperazine was not detected by 1H NMR.

reactant | NaOH | [OH-].[Na+]
reactant | 1-Methylpiperazine | 869 mmol, 96.5 mL, 1 equiv | CN1CCNCC1 | C5H12N2
reactant | 5-chloro-2-nitroaniline | 869 mmol, 150 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
product | 5-(4-methyl-piperazin-1-yl)-2-nitroaniline | 203.2 g, 98.9% yield | CN1CCN(CC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H16N4O2
